US08017607B2
A mixture of 3-chloro-benzoaldehyde (Aldrich, 97%) (4.21 g, 30.0 mmol) and methyl amine (2.0 M in THF, Aldrich, 22.5 mL, 45.0 mmol) in CH2Cl2 (50 mL) was stirred at rt overnight. The reaction mixture was concentrated and the residue was dried under reduced pressure to afford [[1-(3-chloro-phenyl)-meth-(E)-ylidene]-methyl-amine (4.60 g, 100%) as colorless oil which was used in the next step without further purification.

reactant | 3-chloro-benzoaldehyde | 30.0 mmol, 4.21 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | methyl amine | 45.0 mmol, 2.0 M, 22.5 mL | CN | CH5N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | [1-(3-chloro-phenyl)-meth-(E)-ylidene]-methyl-amine | 4.60 g, 100% | ClC=1C=C(C=CC1)\C=N\C | C8H8ClN
